US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid L-arginine salt
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15 mg) was dissolved in acetone (0.5 mL) and heated to 60° C. Aqueous L-arginine (14 uL, 2.22 M) was added and the reaction mixture was cooled to 35° C. Water (14 uL) was then added and the mixture was stirred for 24 h. The reaction mixture was concentrated to dryness and EtOAc was added to provide a white solid which was collected by filtration.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | L-arginine | 2.22 M, 14 uL | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Water | 14 uL | O | H2O
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid L-arginine salt | N[C@@H](CCCNC(N)=N)C(=O)O.ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | InChI=1S/C24H23ClF3NO4.C6H14N4O2/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;7-4(5(11)12)2-1-3-10-6(8)9/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t15-;4-/m10/s1
